US08487093B2
Step 1: tert-butyl 4-({[(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)piperidine-1-carboxylate
To a solution of (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid (1.484 g, 5.37 mmol) in dry dichloromethane (60 ml) was added triethylamine (1.88 ml, 13.49 mmol), 2-chloro-1-methylpridinium iodide (1.60 g, 6.26 mmol), and 4-amino-1-BOC-piperidine (1.30 g, 6.49 mmol) sequentially at room temperature under nitrogen. The reaction was then heated to 50° C. for 1 hour. The reaction mixture was concentrated under vacuum and purified by silica gel chromatography on an Isco Combiflash (40 g silica gel, 40 mL/min, 254 nM, 15% to 100% EtOAc/hexane over 14 column volumes then 100% EtOAc for 4 column volumes; title compound eluted at 65% ethyl acetate/hexane) to afford the title compound as a pale orange solid.

reactant | (2S,5R)-6-(phenylmethoxy)-7-oxo-1,6-diazabicyclo[3.2.1]octane-2-carboxylic acid | 5.37 mmol, 1.484 g | C1(=CC=CC=C1)CON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)O | C14H16N2O4
reactant | triethylamine | 13.49 mmol, 1.88 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1-methylpridinium iodide | 6.26 mmol, 1.60 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | 4-amino-1-BOC-piperidine | 6.49 mmol, 1.30 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | tert-butyl 4-({[(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)piperidine-1-carboxylate | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C24H34N4O5
